US05428043
2,3-dihydro-1-oxo-1H-pyrrolo[1.2-a]indole
A solution of 2,3-dihydro-1-oxo-2-ethoxycarbonyl-1H-pyrrolo[1,2-a]indole in 400 mL of acetic acid and 25 mL of water was heated at reflux under N2 for 16 hr. The resulting solution was cooled and concentrated to dryness. The residue was treated with water and methylene chloride. The organic layer was washed with NaHCO3, brine, dried and concentrated to give solid which was purified by column chromatography to give the title compound. HNMR (CDCl3)δ 2.17 (t, 2H), 4.38 (t, 2H), 6.95 (s, 1H), 7.06-7.2 (m, 1H), 7.2-7.4 (m, 2H), 7.7 (d, 1H) ppm.

reactant | 2,3-dihydro-1-oxo-2-ethoxycarbonyl-1H-pyrrolo[1,2-a]indole | O=C1C(CN2C1=CC=1C=CC=CC21)C(=O)OCC | C14H13NO3
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
solvent | water | 25 mL | O | H2O
product | 2,3-dihydro-1-oxo-1H-pyrrolo[1.2-a]indole | O=C1CCN2C1=CC=1C=CC=CC21 | C11H9NO
